US07294636B2
Step 2: Preparation of 8-benzylbicyclo[3.2.1.]octan-3-one-O-methyloxime
To a solution of 8-benzylbicyclo[3.2.1.]octan-3-one (13.66 g) in ethanol (250 ml) was added pyridine (5.69 ml) followed by hydroxylamine hydrochloride (4.85 g) and the resulting mixture was refluxed for 18 hours. The reaction mixture was allowed to cool to room temperature and then partitioned between water and dichloromethane. The organic layer was dried and evaporated to give the title compound as a brown solid which was used without further purification. Yield 10.79 g. MS 231 MH+.

reactant | octan-3-one | 13.66 g | CCC(CCCCC)=O | C8H16O
reactant | pyridine | 5.69 ml | N1=CC=CC=C1 | C5H5N
reactant | hydroxylamine hydrochloride | 4.85 g | Cl.NO
solvent | ethanol | 250 ml | C(C)O | C2H6O
product | octan-3-one-O-methyloxime | CON=C(CC)CCCCC | C9H19NO
